Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
C7 radiculopathy without myelopathy
 
Major Surgical or Invasive Procedure:
c6-c7 discectomy.

 
History of Present Illness:
A ___ gentleman who since ___
has been having pain in the neck as well as the left arm.  It
feels like in ___, this started to become weakness.  Worsening
weakness with left arm extension and hard time lifting things
with his left arm.  No major problems on the right. 
Mild-to-moderate neck pain.  He tried at least one month of
physical therapy without any significant improvement.  Has been
on medical management as well.  He is describing clear
paresthesias on the left C7 distribution.  Got an MRI of the
C-spine and he is coming for a neurosurgical evaluation.

Review of systems, medications, medical history in the chart.
 
Past Medical History:
HIV - DC4 = 740 and VL < 50 copies in ___
Asthma
Anal intraepithelial neoplasia II-III
S/p appendectomy
 
Social History:
___
Family History:
No significant pulmonary pathology.
 
Physical Exam:
Admission physical exam:
He is awake, alert, oriented x 3.  Cranial nerves II through XII 
within normal limits.  Good strength in both upper extremities 
except left arm triceps is ___.  Negative ___.  Negative 
Babinski.  Both legs are full bilaterally with ___.  Reflex is 
symmetric except absence of the left triceps reflex.  Range of 
motion of the shoulder is fine.

Discharge physical exam:
Sensation intact in the bilateral C6-t1 nerve root 
distributions. 
Motor:
TrapDeltoidBicepTricepGrip
___

IPQuadHamATEHLGast
Right___

No clonus. Negative ___. 

 
Pertinent Results:
___ 05:30AM BLOOD WBC-11.8*# RBC-5.05 Hgb-16.7 Hct-49.4 
MCV-98 MCH-33.1* MCHC-33.8 RDW-11.9 RDWSD-43.1 Plt ___
___ 05:30AM BLOOD Glucose-75 UreaN-16 Creat-1.1 Na-139 
K-4.1 Cl-99 HCO3-25 AnGap-15
___ 05:30AM BLOOD Calcium-8.0* Phos-3.9 Mg-1.___ M admitted with c7 radicular symptoms now status post C6-C7 
discectomy. 

#C6-C7 discectomy:
Patient was brought to the operating room electively for c6-c7 
discectomy. He received pre-operative clearance from anesthesia. 
The procedure was uncomplicated. He was discharged on POD1 
tolerating a diet and ambulating safely around the hospital. His 
post-operative course was unremarkable. 
 
Medications on Admission:
Acylcovir, Cyclobenzaprine 5mg qhs, Dolutegravir, 
Emtricitabine-Tenofovir Alafen, Gabapentin, Omeprazole 40mg qd, 
Testosterone 30mg, Ibuprofen 800mg TID PRN, Cialis 20mg, 
Oxycodone 5mg q3hr prn,
 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN for fever or pain  
2.  Diazepam 5 mg PO Q8H:PRN muscle spasm 
RX *diazepam 5 mg 1 tablet by mouth three times a day Disp #*12 
Tablet Refills:*0 
3.  Dolutegravir 50 mg PO DAILY  
4.  Emtricitabine-Tenofovir alafen (Descovy) 1 TAB PO DAILY  
5.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN pain 
RX *oxycodone [Oxaydo] 5 mg 1 tablet(s) by mouth every six (6) 
hours Disp #*28 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
cervical radiculopathy, left C7 nerve root

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions

Spine Surgery without Fusion

Surgery
•Your dressing may come off on the second day after surgery. 
•Your incision is closed with staples. These staples will need 
to be removed in two weeks when you present clinic and meet with 
the wound nurse. 
•Do not apply any lotions or creams to the site. 
•Please avoid swimming for two weeks after suture/staple 
removal.
•Call your surgeon if there are any signs of infection like 
redness, fever, or drainage. 

Activity
•We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
•You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.
•No driving while taking any narcotic or sedating medication. 
•No contact sports until cleared by your neurosurgeon. 

Medications
•You may take Ibuprofen/ Motrin for pain.
 •You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.
•It is important to increase fluid intake while taking pain 
medications. We also recommend a stool softener like Colace. 
Pain medications can cause constipation. 

When to Call Your Doctor at ___ for:
•Severe pain, swelling, redness or drainage from the incision 
site. 
•Fever greater than 101.5 degrees Fahrenheit
•New weakness or changes in sensation in your arms or legs.

 
Followup Instructions:
___